US07834063B2
4-[(3-{[4-(Methyloxy)phenyl]oxy}propyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(3-hydroxypropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-methoxyphenol: MS (ESI) m/z 433 (M+1).

reactant | 4-[(3-hydroxypropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C13H12F6N2O
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
product | 4-[(3-{[4-(Methyloxy)phenyl]oxy}propyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | COC1=CC=C(C=C1)OCCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C20H18F6N2O2
